US07709468B2
2-(4-Fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine
To a solution of 2-(4-fluorophenyl)-8-methyl-3-(2-methylsulfanylpyrimidin-4-yl)-imidazo[1,2-a]pyrazine (Example #F.1A; 8.58 g, 24.4 mmol) in MeOH (200 mL) and DCM (200 mL) at ambient temperature was added Oxone® (30.0 g, 48.8 mmol) in water (100 mL) to form a suspension. After about 20 h of stirring the layers were separated. The aqueous layer was washed with DCM (3×30 mL). Combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure to yield a yellow solid, which was purified via FCC using EtOAc as an eluent. The product-containing fractions were combined and concentrated under reduced pressure to give a white solid (6.5 g) that was recrystallized in IPA (700 mL) to yield the title compound (3.6 g) after filtration. Additional product was observed in the filtrate. (3.6 g, 38% yield): LC/MS (Table 1, Method b) Rt=1.7 min; MS m/z: 384.1 (M+H)+.

reactant | 2-(4-fluorophenyl)-8-methyl-3-(2-methylsulfanylpyrimidin-4-yl)-imidazo[1,2-a]pyrazine | 24.4 mmol, 8.58 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)SC | C18H14FN5S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | MeOH | 200 mL | CO | CH4O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 2-(4-Fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-8-methylimidazo[1,2-a]pyrazine | 6.5 g, 38% yield | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C)C1C1=NC(=NC=C1)S(=O)(=O)C | C18H14FN5O2S
